US09227969B2
Step-6.3: Synthesis of tert-butyl (3S,4S)-4-amino-3-fluoropiperidine-1-carboxylate, 4.6
Palladium on carbon 10% (0.1 g) was added to a solution of tert-butyl (3S,4S)-4-azido-3-fluoropiperidine-1-carboxylate, 4.4 (0.4 g, 0.00163 mol) dissolved in EtOH (60 mL). The reaction was placed under a hydrogen atmosphere (40 psi pressure) for 16 h. The mixture was filtered through celite-bed and concentrated under reduced pressure to obtain the title compound tert-butyl (3S,4S)-4-amino-3-fluoropiperidine-1-carboxylate, 4.6 (0.4 g crude).

reactant | tert-butyl (3S,4S)-4-azido-3-fluoropiperidine-1-carboxylate | N(=[N+]=[N-])[C@@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)F | C10H17FN4O2
catalyst | Palladium on carbon | 0.1 g | [Pd] | Pd
solvent | EtOH | 60 mL | CCO | C2H6O
product | tert-butyl (3S,4S)-4-amino-3-fluoropiperidine-1-carboxylate | N[C@@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)F | C10H19FN2O2
